US08791134B2
1,3-Diethoxy-2-nitrosopropan-2-yl acetate was prepared from 1,3-diethoxy-propan-2-one oxime and lead tetraacetate using conditions of General Method 2. 1H NMR (250 MHz, chloroform-d) δ 4.09 (4H, q), 3.16-3.68 (4H, m), 2.17 (3H, s), 1.06 (6H, t).

reactant | 1,3-diethoxy-propan-2-one oxime | C(C)OCC(COCC)=NO | C7H15NO3
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
product | 1,3-Diethoxy-2-nitrosopropan-2-yl acetate | C(C)(=O)OC(COCC)(COCC)N=O | C9H17NO5
